* sampler-core-idle-leakage-extracted-fullchip-control -- the ZERO-DELTA CONTROL for sim/tb/sampler-core-idle-leakage-extracted-fullchip/.
*
* Generated from that sibling deck by substituting the DUT subcircuit
* name (sampler_core_routed_extracted for sampler_core_fullchip_extracted)
* and nothing else -- same rails, same idle protocol, same widened 9.5 us
* window -- so the difference between the two records at the same PVT
* point is exactly DR-0025's inter-region contribution.
*
* sampler-core-idle-leakage-extracted-fullchip -- issue #232's full-chip
* (inter-region) delta post-layout re-run of
* sim/tb/sampler-core-idle-leakage-extracted-routed/ against
* layout/pex/sampler_core.fullchip.extracted.spice: DR-0025's ro1/ro2
* trunk delta inserted between each ring wrapper's own `ro` port and
* combiner_sampler_routed_extracted's `rn1`/`rn2`, plus the disclosed
* driver-side-only output load capacitor on raw_bit/raw_valid/ring_bit1/
* ring_bit2 (see layout/pex/build.py's own module docstring, "Full-chip
* (inter-region) delta composition"). Byte-identical to that testbench's
* own fragment except this header and the `xdutA`/`xdutB` lines (name
* `sampler_core_routed_extracted`). No measurement expression changes
* here -- those live in tb.json, and every address it uses
* (`xduta.xcs.xo`/`xduta.xr1.n1`/`xduta.xr1.n2`) stays valid unchanged: the
* delta and the four output-load capacitors sit between xr1/xr2 and xcs,
* touching neither address.
*
* sampler-core-idle-leakage -- see the leaf-level family's own testbench
* header (sim/tb/sampler-core-idle-leakage-extracted/
* tb_sampler_core_idle_leakage_extracted.sp) for the full idle-state
* protocol, method notes and sign convention, all unchanged here.

vsup vsup 0 dc vdd_val

ven en 0 dc 0
vrst rst_n 0 dc 0 pulse(0 vdd_val 100n 1p 1p 10u 20u)
vclk0 clk0 0 dc 0 pulse(0 vdd_val 200n 1p 1p 100n 10u)
vclk1 clk1 0 dc 0 pulse(0 vdd_val 200n 1p 1p 10u 20u)

vsA vsup vddA dc 0
vsB vsup vddB dc 0

* Copy A: clock parked LOW. sampler_core_routed_extracted's header
* (layout/pex/build.py) declares the same 13 ports the routed/leaf-level
* sampler_core variants do; ncA1/ncA2 are unused per-copy nets, vsubs ties
* to 0 explicitly at this call site, same convention as the other
* families.
xdutA en en vddA vddA vddA 0 clk0 rst_n rbA rvA ncA1 ncA2 0 sampler_core_routed_extracted

* Copy B: clock parked HIGH.
xdutB en en vddB vddB vddB 0 clk1 rst_n rbB rvB ncB1 ncB2 0 sampler_core_routed_extracted

fqA qA 0 vsA 1
cqA qA 0 1n
rqA qA 0 1e12
fqB qB 0 vsB 1
cqB qB 0 1n
rqB qB 0 1e12
.ic v(qA)=0
.ic v(qB)=0
